US05521192
A solution of 3.0 grams of potassium hydroxide in 6 mL of water was placed in a commercially available diazomethane generator. Ethanol, 8 mL, was added to the generator, and the contents of the generator were slowly warmed to 60° C. to 70° C. To this was added dropwise a solution of 4.6 grams (0.021 mole) of Diazaid® in a minimum amount of diethyl ether. The diazomethane generated was condensed on a cold finger and, in turn, was allowed to drip into a stirred, cooled solution of 2.5 grams (0.012 mole) of 2-cyano-6-phenyl-1-hexen-1-ol in a minimum of diethyl ether. The complete generation of diazomethane required about 30 to 45 minutes. Upon completion of the diazomethane generation, the reaction mixture was allowed to warm to ambient temperature. After this time the reaction mixture was concentrated under reduced pressure, yielding 2.4 grams of 1-methoxy-2-cyano-6-phenyl-1-hexene. The NMR spectrum was consistent with the proposed structure.

reactant | potassium hydroxide | 3.0 grams | [OH-].[K+]
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | Ethanol | C(C)O | C2H6O
reactant | 2-cyano-6-phenyl-1-hexen-1-ol | 0.012 mole, 2.5 grams | C(#N)C(=CO)CCCCC1=CC=CC=C1 | C13H15NO
solvent | water | 6 mL | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-methoxy-2-cyano-6-phenyl-1-hexene | 2.4 grams | COC=C(CCCCC1=CC=CC=C1)C#N | C14H17NO
